US07253286B2
4-Oxo-4,7-dihydrofuro[2,3-b]pyridine-2-carboxylic acid methyl ester
After adding 5-[(2,2-dimethyl-4,6-dioxo-[1.3]dioxan-5-ylidenemethyl) amino]furan-2-carboxylic acid methyl ester (4.0 g) to Dowtherm A (30 ml), the mixture was heated and stirred at 200° C. for 1 hour. After cooling, the precipitated crystals were filtered out and washed with diethyl ether to obtain the title compound (2.0 g).

reactant | 5-[(2,2-dimethyl-4,6-dioxo-[1.3]dioxan-5-ylidenemethyl) amino]furan-2-carboxylic acid methyl ester | 4.0 g | COC(=O)C=1OC(=CC1)NC=C1C(OC(OC1=O)(C)C)=O | C13H13NO7
solvent | Dowtherm A | 30 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 4-Oxo-4,7-dihydrofuro[2,3-b]pyridine-2-carboxylic acid methyl ester | 2.0 g | COC(=O)C1=CC2=C(NC=CC2=O)O1 | C9H7NO4
